US07247748B2
b) (S)-(3-{3-[[2-Chloro3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid methyl ester
A solution of (3-{3-bromo-propoxyl}-phenyl)acetic acid methyl ester (0.55 g, 1.5 mmol) and (S)-(2-Chloro-3-trifluoromethyl-benzyl)-(2-phenyl-propyl)-amine (0.55 g, 1.6 mmol) in acetonitrile (10 ml) was treated with solid potassium carbonate(0.4 g, 2.4 mmol).The reaction was heated to reflux and stirred for 48 h. Upon cooling to RT, the reaction was filtered through a pad of celite, washed with ethyl acetate, and the filtrate was concentrated in vacuo. The crude product was purified by column chromatograph (Ethyl acetate:Hexane/20:80) to give the title compound as an oil (0.6 g, 67%). MS (ESI) 534.6 (M+H)+.

reactant | (3-{3-bromo-propoxyl}-phenyl)acetic acid methyl ester | 1.5 mmol, 0.55 g | COC(CC1=CC(=CC=C1)OCCCBr)=O | C12H15BrO3
reactant | (S)-(2-Chloro-3-trifluoromethyl-benzyl)-(2-phenyl-propyl)-amine | 1.6 mmol, 0.55 g | ClC1=C(CNC[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C17H17ClF3N
reactant | potassium carbonate | 2.4 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S)-(3-{3-[[2-Chloro3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid methyl ester | 0.6 g, 67% | COC(CC1=CC(=CC=C1)OCCCN(C[C@@H](C)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C29H31ClF3NO3
